US08030337B2
N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}propanamide
N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride (100 mg, 0.369 mmol) was dissolved in pyridine (4 mL), propionic anhydride (52.1 μL, 0.406 mmol) was added under ice-cooling, and the mixture was stirred for 15 min. Water was added to the reaction solution, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→90/10) to give the title compound (94.5 mg, yield 88%).

reactant | N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride | 0.369 mmol, 100 mg | Cl.NC1=CC=C2CCC(C2=C1O)CCNC(C)=O
reactant | propionic anhydride | 0.406 mmol, 52.1 μL | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | Water | O | H2O
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}propanamide | 94.5 mg, yield 88% | C(C)(=O)NCCC1CCC2=CC=C(C(=C12)O)NC(CC)=O | C16H22N2O3
